US04713383
A mixture of 9-chloro-2-(2-furyl)-5-methylthio(1,2,4]triazolo[1,5-c]quinazoline (5.7 g) is refluxed with cyclohexylamine (40 ml) under nitrogen for 6 hours. The mixture is cooled and the insoluble solid collected and recrystallized from ethanol to afford pure 9-chloro-5-cyclohexylamino-2-(2-furyl)-[1,2,4]triazolo[1,5-c]quinazoline, mp 158°-160°.

reactant | 9-chloro-2-(2-furyl)-5-methylthio(1,2,4]triazolo[1,5-c]quinazoline | 5.7 g | ClC1=CC=2C=3N(C(=NC2C=C1)SC)N=C(N3)C=3OC=CC3 | C14H9ClN4OS
solvent | cyclohexylamine | 40 ml | C1(CCCCC1)N | C6H13N
product | 9-chloro-5-cyclohexylamino-2-(2-furyl)-[1,2,4]triazolo[1,5-c]quinazoline | ClC1=CC=2C=3N(C(=NC2C=C1)NC1CCCCC1)N=C(N3)C=3OC=CC3 | C19H18ClN5O
